US05594023
A) 1-(Diethylaminocarbonyl)indoline
A solution of 6 g of indoline in 10 ml of pyridine is cooled to 0° C., 6.4 ml of diethylcarbamoyl chloride are added dropwise and the mixture is stirred for 18 hours at RT. Water is added to the reaction mixture, extraction is carried out with AcOEt, the organic phase is washed with water and with a 5% solution of potassium hydrogensulfate and dried over sodium sulfate and the solvent is evaporated off under vacuum. The residue is chromatographed on silica using DCM as the eluent to give 8 g of the expected product, which is used as such.

reactant | indoline | 6 g | N1CCC2=CC=CC=C12 | C8H9N
reactant | diethylcarbamoyl chloride | 6.4 ml | C(C)N(C(=O)Cl)CC | C5H10ClNO
reactant | Water | O | H2O
reactant | AcOEt | CCOC(=O)C | C4H8O2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 1-(Diethylaminocarbonyl)indoline | 8 g | C(C)N(C(=O)N1CCC2=CC=CC=C12)CC | C13H18N2O
